US06603029B1
366 g of dimethylformamide and 165.9 g (1.2 mol) of potassium carbonate were placed in a flask, followed by dropwise addition of 122 g (1 mol) of salicylaldehyde. 181.2 g (1.2 mol) of t-butyl chloroacetate were added dropwise to the mixture at a temperature of 50° C. for three hours. After the addition, the mixture was stirred for three hours at a temperature of 50° C. The resulting reaction mixture was washed with 122 g of toluene and 662 g of water. 130 g of the solvent was removed from the mixture by distillation and then 122 g of n-heptane were added to the distillation residue to effect crystallization. The resulting crystals were collected by filtration to provide 122.3 g of 2-t-butoxycarbonylmethoxybenzaldehyde having a purity of 98.5% as brown or pale yellow crystals. The filtrate was concentrated and provided 52.6 g of 2-t-butoxycarbonylmethoxybenzaldehyde having a purity of 98.0%. FIG. 1 is an infrared absorption spectrum of the compound. The overall yield was 74%.

reactant | potassium carbonate | 1.2 mol, 165.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | salicylaldehyde | 1 mol, 122 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | t-butyl chloroacetate | 1.2 mol, 181.2 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | dimethylformamide | 366 g | CN(C=O)C | C3H7NO
product | 2-t-butoxycarbonylmethoxybenzaldehyde | 122.3 g | C(C)(C)(C)OC(=O)COC1=C(C=O)C=CC=C1 | C13H16O4
